US04568754
(a) (3,3-dimethyl)2-butyl chloracetate
47.5 g (0.42 mole) of chloracetyl chloride was slowly added to a mixture of 40.9 g (0.4 mole) of 3,3-dimethyl 2-butanol and 58 ml (0.42 mole) of triethylamine. The reaction mixture kept at 10° C. during the running in of the acid chloride, was brought to ordinary temperature and stirred for about 4 hours. After filtration and washing with ether of triethylamine hydrochloride, the solution was washed with water then dried over sodium sulfate. After evaporation of the solvent and distillation of the vacuum, 64 g namely 89% was obtained of a pure liquid of b.p.t =79°/81° C. under 20 mm Hg.

reactant | chloracetyl chloride | 0.42 mole, 47.5 g | ClCC(=O)Cl | C2H2Cl2O
reactant | 3,3-dimethyl 2-butanol | 0.4 mole, 40.9 g | CC(C(C)O)(C)C | C6H14O
reactant | triethylamine | 0.42 mole, 58 ml | C(C)N(CC)CC | C6H15N
product | (3,3-dimethyl)2-butyl chloracetate | ClCC(=O)OC(C)C(C)(C)C | C8H15ClO2
